US05854275
To a solution of 4-hydroxy-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylmethyl}butyric acid tert-butyl ester (490 mg, 1.0 mmol) in dry tetrahydrofuran (20 mL) was added 1,3-dioxo-1,3-dihydrobenzo[f]isoindole (394 mg, 2.0 mmol), triphenylphosphine (524 mg, 2.0 mmol) and diethylazodicarboxylate (0.31 mL, 2.0 mmol). The resulting mixture was stirred for 3 days. The solvent was evaporated under vacuum and the residue was chromatographed on silica gel eluting with 40% ethyl acetate in hexane. Fractions containing the two diastereomeric products were combined and evaporated to leave a white solid which was recrystallized from ethyl acetate to afford 4-(1,3-dioxo-1,3-dihydrobenzo [f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylmethyl}butyric acid tert-butyl ester (diastereomer A) as a white solid, 105 mg (16%). The mother liquor from the recrystallization was concentrated under vacuum to afford an oil highly enriched in diastereomer B, 140 mg (21%).

reactant | 4-hydroxy-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylmethyl}butyric acid tert-butyl ester | 1.0 mmol, 490 mg | C(C)(C)(C)OC(C(CCO)CC1(CCCCC1)C(NC(CC1=CC=C(C=C1)OC)C(NC)=O)=O)=O | C27H42N2O6
reactant | 1,3-dioxo-1,3-dihydrobenzo[f]isoindole | 2.0 mmol, 394 mg | O=C1NC(C=2C=C3C(=CC12)C=CC=C3)=O | C12H7NO2
reactant | triphenylphosphine | 2.0 mmol, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.0 mmol, 0.31 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(1,3-dioxo-1,3-dihydrobenzo [f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylmethyl}butyric acid tert-butyl ester | C(C)(C)(C)OC(C(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)CC3(CCCCC3)C(NC(CC3=CC=C(C=C3)OC)C(NC)=O)=O)=O | C39H47N3O7
